US04736055
(1b) 3-[2-(Methacryloxy)ethoxycarbonyl]benzenesulfonyl chloride
With stirring, a solution of 13 g (0.1 mole) of 2-hydroxyethyl methacrylate in 80 ml of tetrahydrofuran is slowly added dropwise at 0° C. to a solution of 23.9 g (0.1 mole) of 3-chlorosulfonylbenzoyl chloride and 7.9 g (0.1 mole) of pyridine in 150 ml of tetrahydrofuran. The reaction mixture is subsequently stirred for 15 hours at room temperature. The precipitated pyridine salt is removed by filtration, and the filtrate is concentrated by evaporation in vacuo. The oily residue is dried under high vacuum, affording 28 g of viscous product.

reactant | 2-hydroxyethyl methacrylate | 0.1 mole, 13 g | C(C(=C)C)(=O)OCCO | C6H10O3
reactant | 3-chlorosulfonylbenzoyl chloride | 0.1 mole, 23.9 g | ClS(=O)(=O)C=1C=C(C(=O)Cl)C=CC1 | C7H4Cl2O3S
reactant | pyridine | 0.1 mole, 7.9 g | N1=CC=CC=C1 | C5H5N
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 3-[2-(Methacryloxy)ethoxycarbonyl]benzenesulfonyl chloride | 28 g | C(C(=C)C)(=O)OCCOC(=O)C=1C=C(C=CC1)S(=O)(=O)Cl | C13H13ClO6S
